US08110687B2
A mixture of 1-[3-bromo-5-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole (510 mg, 1.6 mmol), 1-methylpiperazine (210 μL, 1.9 mmol), Pd2(dba)3 (70 mg, 0.08 mmol), 2′-BINAP (100 mg, 0.2 mmol) and cesium carbonate (730 mg, 2.2 mmol) in toluene (5.1 mL) was subjected to MWI at 150° C. for 10 min. The reaction mixture was diluted with DCM and washed with brine. The residue was purified by column chromatography to give 1-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)phenyl]-4methylpiperazine (172 mg, 32%) as a yellow solid. LCMS: (FA) ES+ 338.3.

reactant | 1-[3-bromo-5-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole | 1.6 mmol, 510 mg | BrC=1C=C(C=C(C1)C(F)(F)F)N1C(=CC=C1C)C | C13H11BrF3N
reactant | 1-methylpiperazine | 1.9 mmol, 210 μL | CN1CCNCC1 | C5H12N2
reactant | cesium carbonate | 2.2 mmol, 730 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 5.1 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.08 mmol, 70 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)phenyl]-4methylpiperazine | 172 mg, 32% | CC=1N(C(=CC1)C)C=1C=C(C=C(C1)C(F)(F)F)N1CCN(CC1)C | C18H22F3N3
